US08314108B2
tert-Butyl 3-(2-(3-(5-bromopyrazin-2-ylamino)-1H-pyrazol-5-yl)-3-methoxyphenoxy)propylcarbamate
Diisopropyl azodicarboxylate (1.73 mL, 8.76 mmol) is added to a stirred solution of tert-butyl 3-hydroxypropylcarbamate (0.83 mL, 4.83 mmol), 2-(3-(5-bromopyrazin-2-ylamino)-1H-pyrazol-5-yl)-3-methoxyphenol) (1.59 g, 4.38 mmol) and polystyrene triphenylphosphine (5.91 g, 8.76 mmol) in THF (50 mL) at room temperature. After stirring for 45 min, the reaction is filtered, and the solvent is removed under reduced pressure. The resulting residue is chromatographed (methanol/CH2Cl2) to afford 1.27 g (54%) of a yellow solid.

reactant | Diisopropyl azodicarboxylate | 8.76 mmol, 1.73 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | tert-butyl 3-hydroxypropylcarbamate | 4.83 mmol, 0.83 mL | OCCCNC(OC(C)(C)C)=O | C8H17NO3
reactant | 2-(3-(5-bromopyrazin-2-ylamino)-1H-pyrazol-5-yl)-3-methoxyphenol | BrC=1N=CC(=NC1)NC1=NNC(=C1)C1=C(C=CC=C1OC)O | C14H12BrN5O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | tert-Butyl 3-(2-(3-(5-bromopyrazin-2-ylamino)-1H-pyrazol-5-yl)-3-methoxyphenoxy)propylcarbamate | 1.27 g, 54% | BrC=1N=CC(=NC1)NC1=NNC(=C1)C1=C(OCCCNC(OC(C)(C)C)=O)C=CC=C1OC | C22H27BrN6O4
